US06787543B2
Triphenylphosphine (860 mg), acetic acid (159 mg) and diisopropyl azodicarboxylate were added successively into a solution of tert-butyl (4R,7R,8aS)-4-benzhydryl-7-hydroxyhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate (670 mg) in tetrahydrofuran (10 ml) at room temperature. After being stirred for 1 hour at room temperature, the reaction mixture was poured into aqueous saturated sodium hydrogen carbonate. The whole was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography with a mixture of hexane and ethyl acetate (2:1-3:2) as an eluent to give tert-butyl (4R,7S,8aS)-7-acetoxy-4-benzhydrylhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate.

reactant | Triphenylphosphine | 860 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | tert-butyl (4R,7R,8aS)-4-benzhydryl-7-hydroxyhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 670 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(C[C@H]2N1C[C@@H](C2)O)C(=O)OC(C)(C)C | C25H32N2O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 159 mg | C(C)(=O)O | C2H4O2
product | tert-butyl (4R,7S,8aS)-7-acetoxy-4-benzhydrylhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | C(C)(=O)O[C@H]1C[C@@H]2N([C@@H](CN(C2)C(=O)OC(C)(C)C)C(C2=CC=CC=C2)C2=CC=CC=C2)C1 | C27H34N2O4
